US07618990B2
Triethylamine (29.82 mL, 214 mmol) was added under nitrogen dropwise to a mixture of 1,1-cyclopropanedicarboxylic acid monoethyl ester (31.518 g, 199 mmol), prepared in the previous step, and diphenylphosphoryl azide (47.4 mL, 219 mmol) in 40 mL of tert-butanol at room temperature. After the addition, the reaction was refluxed for 5 h. The reaction was concentrated under reduced pressure. The residue was taken up in ethyl acetate and extracted three times each with 5% citric acid, saturated NaHCO3 and saturated NaCl. The ethyl acetate layer was dried (anhydrous MgSO4), filtered and the solvent removed under reduced pressure to give 1-[[(1,1-dimethylethoxy)carbonyl]amino]cyclopropane carboxylic acid ethyl ester (41.3931 g, 91%) as a yellow oil, MS (ES) m/z 130.0 [M+H-tBoc].

reactant | Triethylamine | 214 mmol, 29.82 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1-cyclopropanedicarboxylic acid monoethyl ester | 199 mmol, 31.518 g | C(C)OC(=O)C1(CC1)C(=O)O | C7H10O4
reactant | diphenylphosphoryl azide | 219 mmol, 47.4 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 40 mL | C(C)(C)(C)O | C4H10O
product | 1-[[(1,1-dimethylethoxy)carbonyl]amino]cyclopropane carboxylic acid ethyl ester | 41.3931 g, 91% | C(C)OC(=O)C1(CC1)NC(=O)OC(C)(C)C | C11H19NO4
